US07402672B2
3-(3-Trifluoromethoxy-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid, amide, Ia-24
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(3-trifluoromethoxyphenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-24 as an ivory colored solid. 1H NMR (DMSO-d6) δ 12.56 (bs, 1H), 8.45 (dd, 1H, J=1.5, 4.5 Hz), 8.12 (bs, 1H), 7.92 (dd, 1H, J=1.5, 8.3 Hz), 7.85 (bs, 1H), 7.33 (dd, 1H, J=4.4, 8.3 Hz) overlapping with 7.32 (m, 1H), 7.1 (m, 1H) overlapping with 7.03 (m, 2H). MS Obs 354.1 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(3-trifluoromethoxyphenyl)disulfide | 1.1 equiv | FC(OC=1C=C(C=CC1)SSC1=CC(=CC=C1)OC(F)(F)F)(F)F | C14H8F6O2S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(3-Trifluoromethoxy-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid, amide | FC(OC=1C=C(C=CC1)SC1=C(NC=2C1=NC=CC2)C(=O)N)(F)F | C15H10F3N3O2S
